US08030497B2
a) 4-Bromo-5-iodo-2-(4-isopropyl-phenyl)-7-methoxy-1H-benzoimidazole
To a solution of 200 mg (0.51 mmol) 5-iodo-2-(4-isopropyl-phenyl)-7-methoxy-1H-benzoimidazole in 3 ml glacial acetic acid is slowly added 82 mg (0.51 mmol) bromine. The reaction mixture is stirred for 45 min. 30 ml EtOAc are added and this solution is washed 2n NaOH, water and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=3:1) and recrystallized from EtOAc/diethyl ether to afford 126 mg of the title compound as off-white crystals.

reactant | 5-iodo-2-(4-isopropyl-phenyl)-7-methoxy-1H-benzoimidazole | 0.51 mmol, 200 mg | IC1=CC2=C(NC(=N2)C2=CC=C(C=C2)C(C)C)C(=C1)OC | C17H17IN2O
reactant | bromine | 0.51 mmol, 82 mg | BrBr | Br2
reactant | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 4-Bromo-5-iodo-2-(4-isopropyl-phenyl)-7-methoxy-1H-benzoimidazole | 126 mg | BrC1=C(C=C(C=2NC(=NC21)C2=CC=C(C=C2)C(C)C)OC)I | C17H16BrIN2O
